US06355658B1
Synthesis of 6-methyl-2-oxo-2H-1-benzopyran-3-carboxylic acid
2 g of 5-methylsalicylaldehyde (14.7 mmol), 3.06 g of malonic acid (29.4 mmol), 1.3 g of pyridine and 0.08 g of aniline are dissolved in a minimum amount of ethanol. The mixture is heated at 40° C. on a water bath for 6 h. Next, it is diluted with water, acidified and then extracted with ether. The solvent is removed by distillation under reduced pressure. The residue obtained is recrystallized from ethanol.

reactant | 5-methylsalicylaldehyde | 14.7 mmol, 2 g | CC1=CC=C(C(C=O)=C1)O | C8H8O2
reactant | malonic acid | 29.4 mmol, 3.06 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 1.3 g | N1=CC=CC=C1 | C5H5N
reactant | aniline | 0.08 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-methyl-2-oxo-2H-1-benzopyran-3-carboxylic acid | CC=1C=CC2=C(C=C(C(O2)=O)C(=O)O)C1 | C11H8O4
